US04164611
3,5-Dimethyl-4-hydroxybenzenesulphonic acid hydrazide
15.0 g (0.3 mol) of hydrazine hydrate are first introduced into 60 ml of dimethylacetamide. 22 g (0.1 mol) of 3,5-dimethyl-4-hydroxybenzenesulfonic acid chloride dissolved in 60 ml of dioxane are added dropwise to this solution over the course of 15 minutes. This causes the temperature to rise to 90° C., at which level it is maintained by slight cooling. The mixture is allowed to react for a further 90 minutes and is then completely concentrated under reduced pressure. The residue is recrystallised first from a little water and then from isopropanol. This gives 3,5-dimethyl-4-hydroxybenzenesulphonic acid hydrazide, which melts at 186° C. (with decomposition).

reactant | hydrazine hydrate | 0.3 mol, 15.0 g | O.NN
reactant | dimethylacetamide | 60 ml | CC(=O)N(C)C | C4H9NO
reactant | 3,5-dimethyl-4-hydroxybenzenesulfonic acid chloride | 0.1 mol, 22 g | CC=1C=C(C=C(C1O)C)S(=O)(=O)Cl | C8H9ClO3S
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 3,5-Dimethyl-4-hydroxybenzenesulphonic acid hydrazide | CC=1C=C(C=C(C1O)C)S(=O)(=O)NN | C8H12N2O3S
